US05492925
Preparation of 2-(p-Chlorophenyl)-4-(4,5-dibromo-3-thienyl)-3-nitro-5-(trifluoromethyl)pyrrole)
A solution of 3-(5-bromo-3-thienyl)-5-(p-chlorophenyl)-4-nitro-2-(trifluoromethyl)pyrrole (0.50 g, 1.1 mmol), bromine (0.20 g, 1.3 mmol) and sodium acetate (0.11 g, 1.3 mmol) in acetic acid (10 mL) is heated overnight at 50° C. and poured into water. The solids are collected and recrystallized from 1,2-dichloroethane to give the title product as a yellow solid, mp 241°-242° C.

reactant | 3-(5-bromo-3-thienyl)-5-(p-chlorophenyl)-4-nitro-2-(trifluoromethyl)pyrrole | 1.1 mmol, 0.50 g | BrC1=CC(=CS1)C1=C(NC(=C1[N+](=O)[O-])C1=CC=C(C=C1)Cl)C(F)(F)F | C15H7BrClF3N2O2S
reactant | bromine | 1.3 mmol, 0.20 g | BrBr | Br2
reactant | sodium acetate | 1.3 mmol, 0.11 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(p-Chlorophenyl)-4-(4,5-dibromo-3-thienyl)-3-nitro-5-(trifluoromethyl)pyrrole | ClC1=CC=C(C=C1)C=1NC(=C(C1[N+](=O)[O-])C1=CSC(=C1Br)Br)C(F)(F)F | C15H6Br2ClF3N2O2S
